US07977358B2
A) ((S)-1-Piperidin-4-yl-pyrrolidin-2-yl)-methanol di-hydrochloride
To a solution of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (1.0 g, 5 mmol), S)-1-pyrrolidin-2-yl-methanol (0.6 g, 6 mmol), acetic acid (0.3 ml, 6 mmol) in CH2Cl2 (10 ml) was added sodium triacetoxyborohydride (1.2 g, 6 mmol). The reaction was stirred for 1 h after which time it was washed with saturated sodium hydrogen carbonate, dried with sodium sulphate and concentrated. The residue (1.1 g, 4 mmol) was redissolved in 4M hydrochloric acid in dioxane (6 ml) and stirred for 1 h. Concentration afforded the title compound (1.0 g, quant) as a light orange foam. MS: 185.1 (MH+).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 5 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 1-pyrrolidin-2-yl-methanol | 6 mmol, 0.6 g | N1C(CCC1)CO | C5H11NO
reactant | acetic acid | 6 mmol, 0.3 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 6 mmol, 1.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | hydrochloric acid | 4M | Cl | ClH
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | ((S)-1-Piperidin-4-yl-pyrrolidin-2-yl)-methanol di-hydrochloride | 1.0 g | Cl.Cl.N1CCC(CC1)N1[C@@H](CCC1)CO | InChI=1S/C10H20N2O.2ClH/c13-8-10-2-1-7-12(10)9-3-5-11-6-4-9;;/h9-11,13H,1-8H2;2*1H/t10-;;/m0../s1
